US05552420
A mixture of (3-hydroxypropyl)-bromide (2.17 ml, 24 mmol), 4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenol (5.1 g, 25 mmol), and DEAD (4.18 g, 24 mmol)-was dissolved in 50 ml of THF at 0° C. To the above solution was added dropwise triphenylphosphine (6.3 g, 24 mmol) at 0° C. and the mixture was allowed to stir at 0° C. for 0.5 h. The mixture was diluted with 500 ml of water and 100 ml of ether, and the aqueous layere was extracted with ether (2×400 ml). The combined organic layer was dried over sodium sulfate, and concentrated in vacuo. The residue was dissolved in 800 ml of ether, and the organic layer was washed with 10% NaOH solution (3×50 ml), dried over sodium sulfate, and concentrated in vacuo. The residue was purified by silica column chromatography (7 cm column, ethyl acetate/hexane, 1/5) followed by recrystallization from methylene chloride/hexane to afford 6.4 g (82%) of 3-[4-(2-methyltetrazol-5-yl)-2,6-dimethylphenoxy]-propylbromide, as a light yellow oil.

reactant | (3-hydroxypropyl)-bromide | 24 mmol, 2.17 ml | OCCCBr | C3H7BrO
reactant | 4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenol | 25 mmol, 5.1 g | CN1N=C(N=N1)C1=CC(=C(C(=C1)C)O)C | C10H12N4O
reactant | DEAD | 24 mmol, 4.18 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 24 mmol, 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 500 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-[4-(2-methyltetrazol-5-yl)-2,6-dimethylphenoxy]-propylbromide | 6.4 g, 82% | CN1N=C(N=N1)C1=CC(=C(OCCCBr)C(=C1)C)C | C13H17BrN4O
